US09056859B2
To 1,1-dimethylethyl-4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate (120 g, 347 mmol) in dioxane (800 mL) was added 4 N HCl in dioxane (87.0 mL, 347 mmol) and the resulting mixture was stirred at room temperature over night. The reaction mixture was concentrated and stored under vacuum overnight to afford 5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride. This can be used as is or converted to the free base by partitioning between an organic solvent and saturated NaHCO3 solution. MS: m/z 247 (M+1)+.

reactant | 1,1-dimethylethyl-4-[2-(1-oxo-1,3-dihydro-2-benzofuran-5-yl)ethyl]piperazine-1-carboxylate | 347 mmol, 120 g | CC(C)(C)C1N(CCN(C1)CCC1=CC2=C(C(OC2)=O)C=C1)C(=O)[O-]
reactant | HCl | 4 N | Cl | ClH
solvent | dioxane | 800 mL | O1CCOCC1 | C4H8O2
solvent | dioxane | 347 mmol, 87.0 mL | O1CCOCC1 | C4H8O2
product | 5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one hydrochloride | Cl.N1(CCNCC1)CCC1=CC2=C(C(OC2)=O)C=C1 | InChI=1S/C14H18N2O2.ClH/c17-14-13-2-1-11(9-12(13)10-18-14)3-6-16-7-4-15-5-8-16;/h1-2,9,15H,3-8,10H2;1H
